US05420285
Preparation of 5-Maleimidyl-2-Hydrazinopyridine Hydrochloride [1H-Pyrrole-2,5-dione, 1-(6-Hydrazino-3-Pyridinyl)--, Monohydrochloride]
2-chloro-5-nitropyridine, hydrazine hydrate, di-tert-butyl dicarbonate, 10% palladium on charcoal, maleic anhydride, cobalt acetate and acetic anhydride were purchased from Aldrich Chemicals (Milwaukee, Wi.).

reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | hydrazine hydrate | O.NN
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium on charcoal | [Pd] | Pd
catalyst | cobalt acetate | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | 5-Maleimidyl-2-Hydrazinopyridine Hydrochloride | Cl.C1(C=CC(N1C=1C=CC(=NC1)NN)=O)=O | InChI=1S/C9H8N4O2.ClH/c10-12-7-2-1-6(5-11-7)13-8(14)3-4-9(13)15;/h1-5H,10H2,(H,11,12);1H
